US05194441
2-tert-Butyl-4-(pyrid-3-yl)-5-(2-bromophenyl)-1,3-dioxolane
8 g (0.027 mol) of 1-(pyrid-3-yl)-2-(2-bromophenyl)-ethanediol and 4.5 g (0.0525 mol) of pivaldehyde were dissolved in 100 ml of methylene chloride. This was achieved by adding 4.35 ml (0.0525 mol) of boron trifluoride etherate dropwise at room temperature and stirring overnight. Thereafter, the mixture was poured onto ice water and was neutralized with NaHCO3 solution. The organic phase was washed with water, dried over Na2SO4 and filtered, and the filtrate was evaporated down. The crude product was purified by chromatography.

reactant | 1-(pyrid-3-yl)-2-(2-bromophenyl)-ethanediol | 0.027 mol, 8 g | N1=CC(=CC=C1)C(CC1=C(C=CC=C1)Br)(O)O | C13H12BrNO2
reactant | pivaldehyde | 0.0525 mol, 4.5 g | CC(C)(C)C=O | C5H10O
reactant | boron trifluoride etherate | 0.0525 mol, 4.35 ml | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-tert-Butyl-4-(pyrid-3-yl)-5-(2-bromophenyl)-1,3-dioxolane | C(C)(C)(C)C1OC(C(O1)C=1C=NC=CC1)C1=C(C=CC=C1)Br | C18H20BrNO2
